US04034040
N,N-dioctadecyl-N'-formyl-1,3-propanediamine
A mixture of N,N-dioctadecyl-1,3-propanediamine (4.88 g.), ethanol (15 ml.) and methyl formate (35 ml.) is heated at reflux for one-half four. By-product methanol is distilled off and additional methyl formate (20 ml.) added. The mixture is refluxed for a half hour and allowed to stand overnight. It is taken to dryness under reduced pressure and the white solid residue recrystallized from ethyl acetate, Yield= quantitative: m.p. 42°-46° C.

reactant | N,N-dioctadecyl-1,3-propanediamine | 4.88 g | C(CCCCCCCCCCCCCCCCC)N(CCCN)CCCCCCCCCCCCCCCCCC | C39H82N2
reactant | methyl formate | 35 ml | C(=O)OC | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N,N-dioctadecyl-N'-formyl-1,3-propanediamine | C(CCCCCCCCCCCCCCCCC)N(CCCNC=O)CCCCCCCCCCCCCCCCCC | C40H82N2O
